US04777179
5-[(3-Aminopropyl)thio]-N,N,3-trimethyl-2-thiophenemethanamine
N-[3-[[5-(Dimethylamino)methyl-4-methyl-2-thienyl]thio]propyl]isoindole-1,3(2H)-dione (15.2 g) and hydrazine hydrate (8 ml) were stirred at room temperature in tetrahydrofuran (150 ml) for 48 h. The mixture was filtered and the filtrate was distilled to give the title compound as an orange oil (6.9 g) b.p. 160°-170°/0.04 mm.

reactant | N-[3-[[5-(Dimethylamino)methyl-4-methyl-2-thienyl]thio]propyl]isoindole-1,3(2H)-dione | 15.2 g | CN(C)CC1=C(C=C(S1)SCCCN1C(C2=CC=CC=C2C1=O)=O)C | C19H22N2O2S2
reactant | hydrazine hydrate | 8 ml | O.NN
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-[(3-Aminopropyl)thio]-N,N,3-trimethyl-2-thiophenemethanamine | 6.9 g | NCCCSC1=CC(=C(S1)CN(C)C)C | C11H20N2S2
